Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p Multiple gunshot wounds
 
Major Surgical or Invasive Procedure:
___ EXPLORATORY LAPAROTOMY 

 
History of Present Illness:
___ year old male who is s/p multiple gunshot wounds to abdomen 
and left hand. He was transported from ___ 
for further managemnt of his injuries.
 
Past Medical History:
 Asthma, ?depression/ anxiety, ETOH use per family, h/o assault 
 
Family History:
Noncontributory
 
Physical Exam:
Upon presentation to ___:
HR: 70 BP: 100/p Resp: bagged O(2)Sat: 100 Normal
 
Constitutional: intubated, sedated
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light
ETT in place
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nondistended
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: Warm and dry, GSW to L chest, LLQ x2, R flank, L hip,
R back, L thigh x 2, L thumb
Neuro: intubated, sedated
Psych: intubated, sedated
___: No petechiae

 
Pertinent Results:
___ 09:20AM   GLUCOSE-111* UREA N-7 CREAT-0.7 SODIUM-143 
POTASSIUM-3.0* CHLORIDE-109* TOTAL CO2-19* ANION GAP-18
___ 09:20AM   CALCIUM-7.8* PHOSPHATE-3.3 MAGNESIUM-1.5*
___ 09:20AM   WBC-6.2 RBC-3.94* HGB-12.3* HCT-34.3* MCV-87 
MCH-31.2 MCHC-35.9* RDW-13.5
___ 09:20AM   ___ PTT-25.3 ___
___ 09:20AM   PLT COUNT-130*
___ 07:13AM   GLUCOSE-88 LACTATE-3.2* K+-2.9* CL--109*

IMAGING:  
___: Femur AP: Known lucency in the left iliac bone. No 
evidence of bullet fragments. The left femur shows normal 
cortical borders, no evidence of cortical disruption suggesting 
fracture. No soft tissue abnormalities.  
___: CXR: no evidence of larger parenchymal abnormalities and  
no pneumothorax. The abnormalities seen on the outside CT torso 
from ___, 4:48 a.m., are not depicted on the chest 
radiograph. Only the dorsal right 11th rib fracture is visible 
on the edge-enhanced image.  
___: AP chest and pelvis: A focal lucency within the left iliac 
bone corresponds to a traumatic injury seen on the reference CT 
torso examination from 4:48 a.m. No bullet fragments are 
detected. A Foley catheter resides within the bladder, which is 
opacified with contrast.  
___: Hand: comminuted fracture at the head of the first 
proximal phalanx is seen, with extension to the IP joint.  

 
Brief Hospital Course:
He was admitted to the Acute Care Surgery team was taken from 
the ED to the OR for exploratory laparotomy. He was transferred 
to the Trauma SICU postoperatively  for close monitoring. He 
remained hemodynamically stable and continued to have palpable 
lower extremity pulses. He was extubated without difficulty and  
was alert and responsive. Hand surgery was consulted for the 
left open thumb fracture for which he was fitted with a spica 
cast. Ultimately he will follow up as an outpatient with Hand 
Surgery to discuss operative repair. His pain was controlled 
with IV narcotics initially. On the ___ postoperative day his 
diet was advanced. His wounds were closely monitored for signs 
of infection and they remained clean. His vital signs were 
stable and his urine output was adequate; he was then 
transferred out of the ICU to the floor on POD 1. 

Once transferred to the floor he progressed slowly primarily 
limited by pain. His narcotics required several adjustments. 
Toradol was added to his regimen which was helpful. At time of 
discharge his pain is well controlled with Oxycodone and 
Baclofen both prn.

He was seen by Social work due to the nature of his trauma and 
also due to +blood alcohol level. He was provided with 
information pertaining to reactions to trauma.
 
Medications on Admission:
Denies
 
Discharge Medications:
1. Acetaminophen 1000 mg PO TID 
2. Baclofen 10 mg PO TID 
RX *baclofen 10 mg 1 tablet(s) by mouth three times a day Disp 
#*21 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
4. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours as 
needed Disp #*60 Tablet Refills:*0
5. Senna 1 TAB PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p Multiple Gunshot wounds to abdomen & left hand
Injuires:
Comminuted fracture of the left thumb proximal phalanx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hopstial after sustaining multiple 
gunshot wounds to your adbominal region and your left hand. You 
underwent an operation to explore your abomen for internal organ 
injuries and none were identified. You did sustain an open 
fracture of your left thumb and was placed in a special cast. 
You will need to follow up with the Orthopedic hand surgeon in 
the next couple of weeks to discuss possible surgery. You have 
staples along the incision in your abdomen and these will be 
reomoved inthe next ___ days when you return for your 
appointment in the Acute Care Surgery clinic. 

You are being discharged on medications to treat the pain from 
your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST  refrain from such activities while 
taking these medications. 

 

 

Please call your doctor or return to the emergency room if you 
have any of the following:
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 

If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___